US08466282B2
Tert-butyl (3S,5R)-3-[({1-(2-fluorophenyl)-5-[2-(1,3-thiazol-2-yl)ethyl]-1H-1,2,3-triazol-4-yl}carbonyl)(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
tert-Butyl (3S,5R)-3-[({1-(2-fluorophenyl)-5-[(E)-2-(1,3-thiazol-2-yl)ethenyl]-1H-1,2,3-triazol-4-yl}carbonyl)(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (200 mg) and 5% palladium-carbon (20 mg) were suspended in methanol (4 ml), and the mixture was stirred at room temperature under a hydrogen atmosphere (1 atom) for 3 days. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure to give the object product (200 mg).

reactant | tert-Butyl (3S,5R)-3-[({1-(2-fluorophenyl)-5-[(E)-2-(1,3-thiazol-2-yl)ethenyl]-1H-1,2,3-triazol-4-yl}carbonyl)(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 200 mg | FC1=C(C=CC=C1)N1N=NC(=C1\C=C\C=1SC=CN1)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C | C33H42FN7O5S
solvent | methanol | 4 ml | CO | CH4O
catalyst | palladium-carbon | 20 mg | [C].[Pd]
product | Tert-butyl (3S,5R)-3-[({1-(2-fluorophenyl)-5-[2-(1,3-thiazol-2-yl)ethyl]-1H-1,2,3-triazol-4-yl}carbonyl)(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 200 mg | FC1=C(C=CC=C1)N1N=NC(=C1CCC=1SC=CN1)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C | C33H44FN7O5S
